US04440566
Dimedone (5,5-dimethylcyclohexane-1,3-dione, 99%, 14.2 g), pyridine (9 ml) and methylene chloride (100 ml) were mixed in a flask and butyryl chloride (11.4 g) was added dropwise. The mixture was stirred for 26 hours at room temperature and filtered. The filtrate was washed with HCl (6 N, 100 ml), water (100 ml), saturated Na2CO3 (50 ml), water (50 ml), dried (MgSO4). The solvent was removed under reduced pressure to yield 3-butyroxy-5,5-dimethylcyclohex-2-en-1-one as a yellow liquid.

reactant | Dimedone | 14.2 g | CC1(CC(=O)CC(=O)C1)C | C8H12O2
reactant | pyridine | 9 ml | N1=CC=CC=C1 | C5H5N
reactant | butyryl chloride | 11.4 g | C(CCC)(=O)Cl | C4H7ClO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-butyroxy-5,5-dimethylcyclohex-2-en-1-one | C(CCC)(=O)OC1=CC(CC(C1)(C)C)=O | C12H18O3
